US09376422B2
3-(Cyclopentyl(methyl)amino)-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-5-(piperazin-1-yl)benzamide (free base) (0.100 g, 0.223 mmol) was dissolved in methanol (5 mL) and cooled to 0° C. before formalin (0.033 g, 1.1 mL, 2.23 mmol) was added. The resulting reaction mixture was stirred at same temperature for 30 minutes. Sodium cyanoborohydride (0.013 g, 0.22 mmol) was added to above reaction mixture and stirred at room temperature for 4 h. After completion, solvent was removed under reduced pressure and water added to the residue, with extraction carried out using DCM. The combined organic layers were dried, concentrated and purified by column chromatography to provide desired 3-(cyclopentyl(methyl)amino)-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-5-(4-methylpiperazin-1-yl)benzamide (0.037 g, 36%).

reactant | 3-(Cyclopentyl(methyl)amino)-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-5-(piperazin-1-yl)benzamide | 0.223 mmol, 0.100 g | C1(CCCC1)N(C=1C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C=C(C1)N1CCNCC1)C)C | C26H37N5O2
reactant | formalin | 2.23 mmol, 1.1 mL, 0.033 g | C=O | CH2O
reactant | Sodium cyanoborohydride | 0.22 mmol, 0.013 g | C(#N)[BH3-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 3-(cyclopentyl(methyl)amino)-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-5-(4-methylpiperazin-1-yl)benzamide | 0.037 g, 36% | C1(CCCC1)N(C=1C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C=C(C1)N1CCN(CC1)C)C)C | C27H39N5O2
